US05403816
10.5 mg (0.0576 mmol) of methyl 6-methylamino-3-hydroxypicolinate, 11.6 mg (0.0532 mmol) of 2-methylsulfonyl-4,6-dimethoxypyrimidine, 8.8 mg (0.637 mmol) of potassium carbonate and 0.5 ml of dry dimethylsulfoxide were mixed. The mixture was stirred at room temperature for 5 hours, and then a 10% potassium hydroxide aqueous solution (corresponding to 90 mg, 0.160 mmol) was added thereto. The mixture was reacted at room temperature for one hour, and then 2.0 ml of water was added to the reaction mixture. Further, 1.0 ml of a 10% citric acid aqueous solution was added thereto, and the mixture was left to stand, whereby crystals precipitated. After being thoroughly precipitated, the crystals were filtered under suction and washed with water. The crystals were dried to obtain 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-methylaminopicolinic acid.

reactant | methyl 6-methylamino-3-hydroxypicolinate | 0.0576 mmol, 10.5 mg | CNC1=CC=C(C(=N1)C(=O)OC)O | C8H10N2O3
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 0.0532 mmol, 11.6 mg | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | potassium carbonate | 0.637 mmol, 8.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 0.160 mmol, 90 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 2.0 ml | O | H2O
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-methylaminopicolinic acid | yield: 84.0% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)NC)C(=O)O | C13H14N4O5
